US08207199B2
To a solution of tert-butyl 4-hydrazinopiperidine-1-carboxylate (646 mg) and ethanol (15 mL) was added phenyl malonaldehyde (444 mg), followed by stirring at 75° C. for about 1.5 days. The reaction liquid was concentrated under reduced pressure, and the residue was purified by silica gel column chromatography (hexane/chloroform-50/50 to 0/100) to obtain tert-butyl 4-(4-phenyl-1H-pyrazol-1-yl)piperidine-1-carboxylate (226 mg).

reactant | tert-butyl 4-hydrazinopiperidine-1-carboxylate | 646 mg | N(N)C1CCN(CC1)C(=O)OC(C)(C)C | C10H21N3O2
reactant | phenyl malonaldehyde | 444 mg | C1(=CC=CC=C1)C(C=O)C=O | C9H8O2
solvent | ethanol | 15 mL | C(C)O | C2H6O
product | tert-butyl 4-(4-phenyl-1H-pyrazol-1-yl)piperidine-1-carboxylate | 226 mg | C1(=CC=CC=C1)C=1C=NN(C1)C1CCN(CC1)C(=O)OC(C)(C)C | C19H25N3O2
